US08198279B2
1-(2-fluoro-4-(3-methyl-2-oxo-1,2-dihydropyrido[3,2-b]pyrazin-8-yloxy)phenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea (AA-049)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)-3-methylpyrido[3,2-b]pyrazin-2(1H)-one and 2-fluoro-5-trifluoromethylphenyl isocyanate to afford the title compound. yield=85%.

reactant | 8-(4-amino-3-fluorophenoxy)-3-methylpyrido[3,2-b]pyrazin-2(1H)-one | NC1=C(C=C(OC2=CC=NC3=C2NC(C(=N3)C)=O)C=C1)F | C14H11FN4O2
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(2-fluoro-4-(3-methyl-2-oxo-1,2-dihydropyrido[3,2-b]pyrazin-8-yloxy)phenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea | yield=85% | FC1=C(C=CC(=C1)OC1=CC=NC2=C1NC(C(=N2)C)=O)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C22H14F5N5O3
